US04179514
Preparation of 2-[[O-[N-methyl-N-(2-benzoyl-2-propanesulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one
To a solution of 2.5 g (0.015 m) of 3,5,5-trimethyl-2-oximino-thiazolidin-4-one and 3.93 g (0.015 m) of N-methyl-N-(2-benzoyl-2-propanesulfenyl)carbamoyl chloride in 100 ml of dioxane was added 1.5 g (0.015 m) of triethylamine. After stirring at room temperature for 16 hours, the reaction mixture was diluted with water and the product isolated in ethylacetate. Recrystallized from isopropyl ether. Weight of the procut 1.3 g, m.p. 98°-100° C.

reactant | 3,5,5-trimethyl-2-oximino-thiazolidin-4-one | 2.5 g | CN1C(SC(C1=O)(C)C)=NO | C6H10N2O2S
reactant | N-methyl-N-(2-benzoyl-2-propanesulfenyl)carbamoyl chloride | 3.93 g | CN(C(=O)Cl)SC(C)(C)C(C1=CC=CC=C1)=O | C12H14ClNO2S
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 2-[[O-[N-methyl-N-(2-benzoyl-2-propanesulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one | CN(C(=O)ON=C1SC(C(N1C)=O)(C)C)SC(C)(C)C(C1=CC=CC=C1)=O | C18H23N3O4S2
